US05547972
In a similar manner to Example 35, a mixture of 4-chlorobenzaldehyde (3.8 g) and 1-(3-aminopropyl)-2,4-dimethylimidazole (4.1 g) in ethanol (70 ml) was stirred and then reduced with sodium borohydride (2.0 g). The hydrochloride salt was triturated with propan-2-ol, filtered and the residue washed with ether, then dried under vacuum at 45° C., to give N-(4-chlorobenzyl)-3-(2,4-dimethylimidazol-1-yl)propylamine dihydrochloride, m.p. 208°-210° C.

reactant | 4-chlorobenzaldehyde | 3.8 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | 1-(3-aminopropyl)-2,4-dimethylimidazole | 4.1 g | NCCCN1C(=NC(=C1)C)C | C8H15N3
reactant | sodium borohydride | 2.0 g | [BH4-].[Na+]
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | N-(4-chlorobenzyl)-3-(2,4-dimethylimidazol-1-yl)propylamine dihydrochloride | Cl.Cl.ClC1=CC=C(CNCCCN2C(=NC(=C2)C)C)C=C1 | InChI=1S/C15H20ClN3.2ClH/c1-12-11-19(13(2)18-12)9-3-8-17-10-14-4-6-15(16)7-5-14;;/h4-7,11,17H,3,8-10H2,1-2H3;2*1H
